US09108957B2
To a solution of (S)-2-[2-(3-bromophenyl)-[1,4]oxazepan-4-yl]-1-methyl-1H-[4,4′]bipyrimidinyl-6-one (A079) (1.0 g, 2.26 mmol) in N,N-dimethylacetamide (7.5 ml) was added zinc cyanide (0.292 g, 2.49 mmol) and tetrakis(triphenylphosphine) palladium(0) (523 mg, 0.452 mmol) at room temperature under nitrogen atmosphere. The mixture was stirred at 110° C. for 8 hours. The resulting mixture was filtered through a pad of Celite and partitioned between aqueous sodium hydrogen carbonate and chloroform. The organic layer was washed with water, dried over sodium sulfate and concentrated in vacuo. The residue was purified by silica gel column chromatography (eluant: chloroform/acetone=4/1) to afford (R)-2-[2-(3-cyanophenyl)-[1,4]oxazepan-4-yl]-1-methyl-1H-[4,4′]bipyrimidinyl-6-one (A039) as pale yellow solid (745 mg, 85%).

reactant | (S)-2-[2-(3-bromophenyl)-[1,4]oxazepan-4-yl]-1-methyl-1H-[4,4′]bipyrimidinyl-6-one | 2.26 mmol, 1.0 g | BrC=1C=C(C=CC1)[C@@H]1OCCCN(C1)C=1N(C(C=C(N1)C1=NC=NC=C1)=O)C | C20H20BrN5O2
reactant | N,N-dimethylacetamide | 7.5 ml | CN(C(C)=O)C | C4H9NO
catalyst | zinc cyanide | 2.49 mmol, 0.292 g | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.452 mmol, 523 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | (R)-2-[2-(3-cyanophenyl)-[1,4]oxazepan-4-yl]-1-methyl-1H-[4,4′]bipyrimidinyl-6-one | 745 mg, 85% | C(#N)C=1C=C(C=CC1)[C@H]1OCCCN(C1)C=1N(C(C=C(N1)C1=NC=NC=C1)=O)C | C21H20N6O2
